US06017919
LAH (1.90 g, 50 mmol) was suspended in diethyl ether (150 ml), and a solution of 3-pyridylacetonitrile (5.91 g, 50 mmol, 1.0 eq) in diethyl ether (150 ml) was added at room temperature. The mixure was stirred at room temperature for 14 hours. To this reaction mixture were successively added water (1.9 ml), a 15% aqueous sodium hydroxide solution (1.9 ml) and water (5.7 ml). The resulting precipitate was filtered through Celite and washed with diethyl ether, which was followed by concentration under reduced pressure. The obtained residue was subjected to column chromatography (chloroform/methanol=30/1-chloroform/methanol/triethylamine=8/2/0.1) to give 2-(3-pyridyl)ethylamine (2.39 g, 39%) as a colorless oil.

reactant | LAH | 50 mmol, 1.90 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-pyridylacetonitrile | 50 mmol, 5.91 g, 1.0 eq | N1=CC(=CC=C1)CC#N | C7H6N2
reactant | water | 1.9 ml | O | H2O
reactant | sodium hydroxide | 1.9 ml | [OH-].[Na+]
reactant | water | 5.7 ml | O | H2O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 2-(3-pyridyl)ethylamine | 2.39 g, 39% | N1=CC(=CC=C1)CCN | C7H10N2
